US04367238
3-(n-Butyl)-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one was treated with potassium hydroxide in methanol in a similar manner to that of Example 21-(10) to give 2-[2-hydroxy-3-(o-tolyloxy)-phenyl]-n-hexanoic acid, mp. 83°-84° C.

reactant | 3-(n-Butyl)-7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | C(CCC)C1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)C)=O | C19H20O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 2-[2-hydroxy-3-(o-tolyloxy)-phenyl]-n-hexanoic acid | OC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C(=O)O)CCCC | C19H22O4
